US05401770
Zinc-Methionine Complex
L-methionine (2.00 g, 13.4 mmol) was added to an MeOH solution of NaOMe (prepared with Na: 0.30 g, MeOH: 50 ml) at 0° C. and stirred. An MeOH solution (30 ml) of zinc acetate dihydrate (1.50 g) was then slowly dropwise added thereto at room temperature. After stirring for 3 hours, the precipitated crystal (in suspension) was recovered by filtration, washed with water, air dried, and then dried under a reduced pressure (5 mmHg, 80° C.).

reactant | L-methionine | 13.4 mmol, 2.00 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | NaOMe | 50 ml, 0.30 g | C[O-].[Na+]
reactant | zinc acetate dihydrate | 1.50 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | MeOH | 30 ml | CO | CH4O
product | Zinc Methionine | [Zn].N[C@@H](CCSC)C(=O)O | InChI=1S/C5H11NO2S.Zn/c1-9-3-2-4(6)5(7)8;/h4H,2-3,6H2,1H3,(H,7,8);/t4-;/m0./s1
